US04206225
3-(2,5-Dibenzyloxyphenyl)butyl Tosylate
Tosyl chloride (11.1 g., 58.1 mM) is added to a solution of 3-(2,5-dibenzyloxyphenyl)-1-butanol (20.7 g., 57 mM) in pyridine (90 ml.) at -45° C. The reaction mixture is held at -35° C. for 18 hours and is then diluted with cold 2 N hydrochloric acid (1500 ml.) and extracted with ether (5×250 ml.). The combined extracts are washed with saturated sodium chloride solution (4×250 ml.) and then dried (Na2SO4). Concentration of the dried extract affords the product which may be purified by standard methods, if desired.

reactant | Tosyl chloride | 58.1 mM, 11.1 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 3-(2,5-dibenzyloxyphenyl)-1-butanol | 57 mM, 20.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(CCO)C | C24H26O3
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 2 N, 1500 ml | Cl | ClH
product | 3-(2,5-Dibenzyloxyphenyl)butyl Tosylate | S(=O)(=O)(OCCC(C)C1=C(C=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=CC=C(C)C=C1 | C31H32O5S
